US04710507
A solution of 2-[1H]-quinolone (2.0 g) and silver sulphate (2.14 g) in concentrated sulphuric acid (15.0 cm3) was stirred at room temperature during the addition of iodine (3.5 g). After heating at 50° for 24 hours the mixture was poured onto ice, the solution was neutralised with solid sodium carbonate and the solid was filtered off. This material was chromatographed on silica (Merck "MK 60.9385") eluting with chloroform to affford a residue which was recrystallised from methanol to give 6-iodo-2-[1H]-quinolone, m.p. 261°, (0.8 g).

reactant | 2-[1H]-quinolone | 2.0 g | N1C(C=CC2=CC=CC=C12)=O | C9H7NO
reactant | iodine | 3.5 g | II | I2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | sulphuric acid | 15.0 cm3 | S(O)(O)(=O)=O | H2O4S
catalyst | silver sulphate | 2.14 g | S(=O)(=O)([O-])[O-].[Ag+2]
product | 6-iodo-2-[1H]-quinolone | IC=1C=C2C=CC(NC2=CC1)=O | C9H6INO
